US07071175B1
Tetrabutylammonium fluoride (15.3 g, 48.6 mmol) was added to a solution of 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-(ter-butyl-dimethyl-silanyloxymethyl)-pyrimidin (10.0 g, 24.3 mmol) in THF (100 mL) and stirred at room temperature overnight. Water was added and the product extracted with chloroform. The organic phase was dried and concentrated under reduced pressure. Flash chromatography (MeOH/CH2Cl2, 2.5:77.5) gave 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-pyrimidin (4.20 g, 53%).

reactant | Tetrabutylammonium fluoride | 48.6 mmol, 15.3 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-(ter-butyl-dimethyl-silanyloxymethyl)-pyrimidin | 24.3 mmol, 10.0 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=N1)C(O[SiH2]C(C)(C)C)(C)C | C21H37N3O5Si
reactant | Water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-pyrimidin | 4.20 g, 53% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=N1)CO | C15H23N3O5
